US09315491B2
1-(2-Amino-phenyl)-3-[4-(4-chloro-5-methylsulfanyl-6-morpholin-4-yl-pyrimidin-2-yl)-phenyl]-thiourea
A mixture of bis-(2,5-dihydro-imidazol-1-yl)-methanethione (29.2 mg, 0.164 mmol), imidazole (3.7 mg, 0.05 mmol, 0.5 eq) in CH3CN (5 ml) was stirred at 0° C., then added dropwise to a slurry of 4-(4-chloro-5-methylsulfanyl-6-morpholin-4-yl-pyrimidin-2-yl)-phenylamine (50 mg, 0.109 mmol.). The resulting mixture was reacted 3.0 hrs at r.t. and then benzene-1,2-diamine (23.6 mg, 0.218 mmol, 2.0 eq) was added thereinto. The reaction resulted in a white solid, which was filtered, collected and evaporated in vacuo to give 49.5 mg of a white compound (68.5%).

reactant | bis-(2,5-dihydro-imidazol-1-yl)-methanethione | 0.164 mmol, 29.2 mg | N1(CN=CC1)C(=S)N1CN=CC1 | C7H10N4S
reactant | imidazole | 0.05 mmol, 3.7 mg, 0.5 eq | N1C=NC=C1 | C3H4N2
reactant | 4-(4-chloro-5-methylsulfanyl-6-morpholin-4-yl-pyrimidin-2-yl)-phenylamine | 0.109 mmol, 50 mg | ClC1=NC(=NC(=C1SC)N1CCOCC1)C1=CC=C(C=C1)N | C15H17ClN4OS
reactant | benzene-1,2-diamine | 0.218 mmol, 23.6 mg, 2.0 eq | C=1(C(=CC=CC1)N)N | C6H8N2
solvent | CH3CN | 5 ml | CC#N | C2H3N
product | 1-(2-Amino-phenyl)-3-[4-(4-chloro-5-methylsulfanyl-6-morpholin-4-yl-pyrimidin-2-yl)-phenyl]-thiourea | 49.5 mg, 68.5% | NC1=C(C=CC=C1)NC(=S)NC1=CC=C(C=C1)C1=NC(=C(C(=N1)Cl)SC)N1CCOCC1 | C22H23ClN6OS2
